US05705188
Synthesis of 1,3-dioleyloxy-2-propylamine
In 3 ml of tetrahydrofuran was suspended 8 mg (0.2 mmol) of lithium aluminum hydride. While this suspension was maintained under ice-cooling, 125 mg (0.2 mmol) of 1,3-dioleyloxy-2-propyl azide was added dropwise and the mixture was stirred at 0° C. for 2 hours. The reaction mixture was then poured in ice-water and extracted with ether. The extract was washed with water, dried, and concentrated. The residue was subjected to column chromatography (silica gel/methylene chloride-methanol) to provide 104 mg (89%) of the title compound as colorless oil.

reactant | lithium aluminum hydride | 0.2 mmol, 8 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1,3-dioleyloxy-2-propyl azide | 0.2 mmol, 125 mg | C(CCCCCCC\C=C/CCCCCCCC)OCC(COCCCCCCCC\C=C/CCCCCCCC)N=[N+]=[N-] | C39H75N3O2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 1,3-dioleyloxy-2-propylamine | 104 mg, 89% | C(CCCCCCC\C=C/CCCCCCCC)OCC(COCCCCCCCC\C=C/CCCCCCCC)N | C39H77NO2
